US05736597
55.4 g (0.15 mol) of 2-(2,4-dihydroxyphenyl)-4,6-bis-(4-methylphenyl)-1,3,5-triazine are dissolved in refluxing 2-butanone (11) in the presence of 27.6 g (0.2 mol) of K2CO3. A catalytic amount (0.2 g) of KI is added, and 36.8 g (0.3 mol) of ethyl chloroacetate are added dropwise over 1 h30. After refluxing for 25 h, the reaction mixture is cooled in ice, the precipitate is filtered off, washed with water to neutrality and then with methanol. Drying in the oven yields the analytically pure 2-(2-hydroxy-4-ethoxycarbonylmethoxyphenyl)-4,6-bis-(4-methylphenyl)-1,3,5-triazine (54 g, m.p. 166°-167° C.) (Compound No. 47).

reactant | 2-(2,4-dihydroxyphenyl)-4,6-bis-(4-methylphenyl)-1,3,5-triazine | 0.15 mol, 55.4 g | OC1=C(C=CC(=C1)O)C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C23H19N3O2
reactant | K2CO3 | 0.2 mol, 27.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl chloroacetate | 0.3 mol, 36.8 g | ClCC(=O)OCC | C4H7ClO2
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-(2-hydroxy-4-ethoxycarbonylmethoxyphenyl)-4,6-bis-(4-methylphenyl)-1,3,5-triazine | 54 g | OC1=C(C=CC(=C1)OCC(=O)OCC)C1=NC(=NC(=N1)C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | C27H25N3O4
